Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet / Demerol
 
Attending: ___.
 
Chief Complaint:
Crohn's disease, ileostomy takedown 
 
Major Surgical or Invasive Procedure:
Ileostomy takedown

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of Crohn's 
colitis with a recent ileostomy takedown with ileorectal 
anastomosis and diverting loop ileostomy. She is followed by Dr. 
___ in GI who recommended loading her with a dose of 
vedolizumab prior to ileostomy takedown. She received the 
loading medication on ___ and surgery was scheduled for 
___.
 
Past Medical History:
PMH:
- Crohn's colitis
- Polyarthropathy - hands, elbows, knees and ankles.
- Hypertension
- GERD
- Gastroparesis
- R iritis/episcleritis

PSH:
- 1L lower GI bleed from sigmoid ulcer ___
- Cholecystectomy ___
- C-section x2
- Ectopic pregnancy
- Total abdominal hysterectomy and unilateral (L) 
salpingo-oophorectomy ___
 
Social History:
___
Family History:
No family history of IBD.
 
Physical Exam:
Discharge Exam:

VS: 98.8, 136/82, 87, 18, 96%/RA 
GEN: WD, WN in NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR, No JVD
PULM:  normal excursion, no respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: WWP, no CCE, 2+ B/L radial
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
WOUND: oozy with SS at the ostomy site 

 
Pertinent Results:
___ 07:18AM BLOOD WBC-12.2* RBC-4.38 Hgb-12.9 Hct-39.8 
MCV-91 MCH-29.5 MCHC-32.4 RDW-13.9 RDWSD-45.9 Plt ___
___ 11:25AM BLOOD WBC-12.8* RBC-4.34 Hgb-12.8 Hct-38.7 
MCV-89 MCH-29.5 MCHC-33.1 RDW-13.7 RDWSD-44.6 Plt ___
___ 09:28PM BLOOD WBC-14.5* RBC-4.38 Hgb-12.9 Hct-38.4 
MCV-88 MCH-29.5 MCHC-33.6 RDW-13.4 RDWSD-43.3 Plt ___
___ 07:18AM BLOOD Glucose-111* UreaN-13 Creat-0.8 Na-140 
K-4.2 Cl-103 HCO3-24 AnGap-13
___ 11:25AM BLOOD Glucose-111* UreaN-14 Creat-0.9 Na-140 
K-4.2 Cl-101 HCO3-25 AnGap-14
___ 09:28PM BLOOD Glucose-156* UreaN-16 Creat-1.0 Na-139 
K-3.9 Cl-101 HCO3-21* AnGap-17
___ 07:18AM BLOOD Calcium-8.8 Phos-2.4* Mg-2.1
___ 11:25AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.2
___ 09:28PM BLOOD Calcium-9.2 Phos-3.9 Mg-1.9
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ for 
an ileostomy takedown. She tolerated the procedure well without 
complications (Please see operative note for further details). 
After a brief and uneventful stay in the PACU, the patient was 
transferred to the floor for further post-operative management.

Neuro: Pain was well controlled on Tylenol with dilaudid for 
breakthrough pain.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.

GI: The patient was initially kept NPO after the procedure. She 
did experience some post-operative nausea that quickly resolved. 
The patient was later advanced to and tolerated a regular diet 
at time of discharge. Patient's intake and output were closely 
monitored

GU: The patient was voiding without difficulty throughout 
hospitalization.

ID: The patient was closely monitored for signs and symptoms of 
infection and fever of which there was none. 

Heme: The patient had blood levels checked daily during their 
hospital course to monitor for signs of bleeding. The patient 
received subcutaneous heparin and ___ dyne boots were used 
during this stay, she was encouraged to get up and ambulate as 
early as possible. 

On ___, the patient was discharged to home. At discharge, 
she was tolerating a regular diet, passing flatus,  voiding, and 
ambulating independently. She will follow-up in the clinic in 
___ weeks. This information was communicated to the patient 
directly prior to discharge.

Post-Surgical Complications During Inpatient Admission:

[ ] Post-Operative Ileus resolving w/o NGT
[ ] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure
[ ] ARF
[ ] Acute Urinary retention, failure to void after Foley D/C'd
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[x] None

Social Issues Causing a Delay in Discharge:

[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehab hospital disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications
[ ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
dispo
[x] No social factors contributing in delay of discharge.

 
Medications on Admission:
Vedolizumab 300 Q8w
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Moderate 
Please take lowest effective dose  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Crohn's colitis, ileostomy takedown
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital after an ileostomy takedown. 
You have recovered from this procedure well and you are now 
ready to return home. You are tolerating a regular diet, passing 
gas and your pain is controlled with pain medications by mouth. 

Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to your discharge which is 
acceptable; however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patient’s to have some decrease in bowel function 
but you should not have prolonged constipation. Some loose stool 
and passing of small amounts of dark, old appearing blood are 
expected however, if you notice that you are passing bright red 
blood with bowel your please seek medical attention. If you are 
passing loose stool without improvement please call the office 
or go to the emergency room if the symptoms are severe. If you 
are taking narcotic pain medications there is a risk that you 
will have some constipation. Please take an over the counter 
stool softener such as Colace, and if the symptoms does not 
improve call the office. It is also not uncommon after an 
ileostomy takedown to have frequent loose stools until you are 
taking more regular food however this should improve.

The muscles of the sphincters have not been used in quite some 
time and you may experience urgency or small amounts of 
incontinence however this should improve. If you do not show 
improvement in these symptoms within ___ days please call the 
office. Occasionally, patients will need to take a medication to 
slow their bowel movements as their bodies adjust to their new 
normal, however, please contact our office for instructions 
prior to taking any medications. If you experience any of the 
following symptoms please call the office or go to the emergency 
room if severe: increasing abdominal distension, increasing 
abdominal pain, nausea, vomiting, inability to tolerate food or 
liquids, prolonged loose stool, or constipation.

You have a small wound where the old ileostomy once was. This 
should be covered with a dry sterile gauze dressing. The wound 
no longer requires packing with a gauze strip. Please monitor 
the incision for signs and symptoms of infection including: 
increasing redness at the incision, opening of the incision, 
increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if you develop a 
fever. Please call the office if you develop these symptoms or 
go to the emergency room if the symptoms are severe. You may 
shower, let the warm water run over the wound line and pat the 
area dry with a towel, do not rub. Please apply a new gauze 
dressing after showering.

No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by your surgical team. You may gradually 
increase your activity as tolerated but clear heavy exercise 
with your surgical team.

You will be prescribed a small amount of the pain medication 
oxycodone. Please take this medication exactly as prescribed. 
You may take Tylenol as recommended for pain. Please do not take 
more than 3000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication.

Our hope is that you will have a quick return to your life and 
usual activities. Thank you for allowing us to participate in 
your care! 

 
Followup Instructions:
___